Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with prior left temporal CVA
with residual fluent aphasia and vascular dementia who is here
for new onset seizure. He is unable to provide a history, and
there was no family at bedside. Information obtained from 
records
only.

He was healthy yesterday. This morning, ___ found him seizing.
EMS was called, and on arrival to ___, he had a
GTC that lasted for 1min. He received 1mg Ativan, and seizure
stopped. He was then post-ictal. Had another seizure at CT scan,
given Ativan again. Received 1500mg keppra and transferred to ___
because his troponins were elevated to 0.14.

On arrival, he was protecting his airway, and he was grimacing
and opening his eyes to voice but not following commands.
Troponin neg. Neurology was consulted for seizures.  

 
Past Medical History:
arthritis, back pain, cataracts, depression, DM, GERD,
HLD, HTN, hyperopia, migraine, stroke, with residual aphasia,
vascular dementia

 
Social History:
___
Family History:
unknown

 
Physical Exam:
EXAM ON DISCHARGE:

General: Lying comfortably in bed, smile on face.
HEENT: laceration on left lower lip unchanged from admission,
poor  dentition
CV: Well-perfused
Pulm: Breathing comfortably on room air
Abd: non-distended
Ext: non-edematous

Neuro:
MS: Oriented to self. Can follow commands by mimic and by 
request
in 
    broken ___. 
CN: 1.5>1 mm pupils, minimally reactive. Face symmetric. EOMI.
End gaze nystagmus that fatigue on either side. VFF to
confrontation.
Motor: at least 3 throughout. No PD. No asterixis. No tremor.
Sensation: intact to light touch.
Coordination: FNF intact.
Gait: Slightly wide based with left leg extension and subtle 
      circumvention. 
Labs:
 
Pertinent Results:
___ 10:05AM BLOOD WBC-6.3 RBC-4.63 Hgb-12.5* Hct-38.3* 
MCV-83 MCH-27.0 MCHC-32.6 RDW-13.3 RDWSD-40.1 Plt ___
___ 05:38AM BLOOD WBC-7.1 RBC-4.23* Hgb-11.3* Hct-34.7* 
MCV-82 MCH-26.7 MCHC-32.6 RDW-13.5 RDWSD-40.3 Plt ___
___ 10:05AM BLOOD Glucose-177* UreaN-17 Creat-1.0 Na-141 
K-4.4 Cl-102 HCO3-19* AnGap-20*
___ 05:38AM BLOOD Glucose-116* UreaN-17 Creat-1.0 Na-141 
K-4.1 Cl-105 HCO3-24 AnGap-12
___ 05:38AM BLOOD ALT-25 AST-32
___ 09:10AM BLOOD CK(CPK)-378*
___ 04:35PM BLOOD ALT-26 AST-31 CK(CPK)-185 AlkPhos-142* 
TotBili-0.2
___ 05:38AM BLOOD Calcium-9.3 Phos-3.8
___ 06:46PM BLOOD %HbA1c-6.5* eAG-140*
___ 04:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGES:
___ MRI Brain/MRA:

IMPRESSION: 
  
  
1. Motion limited exam. 
2. No evidence for acute infarction or intracranial mass. 
3. Large chronic left MCA territory infarction. 
4. Stenosis of the mid to distal portion of the left M1 segment, 
with 
attenuation of the more distal left MCA vasculature in the area 
of infarct.  
Otherwise, patent intracranial vasculature. 
5. Nonvisualization of flow at the origin of the non dominant 
left vertebral 
artery could be secondary to technical factors, but stenosis 
cannot be 
excluded.  This could be better assessed by CTA if clinically 
warranted. 
6. No cervical carotid stenosis by NASCET criteria. 
7. Unremarkable brain MRA. 

 
Brief Hospital Course:
This is a ___ years-old man with a prior left MCA stroke (___) 
with residual fluent aphasia who was admitted for work-up of 
new-onset seizures. On the day of admission he suffered 3 GTC 
seizures. Etiology of current seizures unclear. Toxic-metabolic 
work-up was negative, no clear source of infection was found in 
his urine, blood, or chest XRAY. EEG was negative for 
electrographic discharges. MRI brain showed attenuation of left 
MCA vasculature in area of old infarct but was negative for 
acute infarct or obvious focus to suggest seizure trigger. 

He was started on keppra 1000mg BID and returned to his baseline 
condition (mild expressive aphasia with subtle right-sided 
weakness) within 2 days. 

Transitional issues:
[ ] Continue keppra 1000mg BID

# Seizures: Likely exacerbation from prior left MCA stroke. 
Trigger unclear.
- continue keppra 1000mg BID on discharge (new medication)
- no electrographic seizures while on cvEEG ___.
- f/u MRI brain with and without contrast
- nursing to walk to assess mobility at home
- Ativan prn for GTC>3min
- dispo: home with ___ (as prior to admission)

# prior L MCA with residual fluent aphasia
- continue home ASA 81mg po qd, atorvastatin 80mg 

# Dementia
- continue donepezil 5mg 
- continue sertraline 50mg po qd

# DM2
- continue home metformin on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 10 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Donepezil 5 mg PO QHS 
5. Senna 8.6 mg PO BID:PRN Constipation 
6. Tamsulosin 0.4 mg PO BID 
7. Sertraline 50 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Finasteride 5 mg PO DAILY 
10. Terbinafine 1% Cream 1 Appl TP BID 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*6 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Donepezil 5 mg PO QHS  
5.  Finasteride 5 mg PO DAILY  
6.  MetFORMIN (Glucophage) 500 mg PO BID  
7.  Oxybutynin 10 mg PO DAILY  
8.  Senna 8.6 mg PO BID:PRN Constipation  
9.  Sertraline 50 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO BID  
11.  Terbinafine 1% Cream 1 Appl TP BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had two seizures. 
Seizures occur as a result of abnormal electrical activity in 
your brain. Yours seizures were most likely caused by your prior 
history of stroke.

Follow-up with your PCP and with ___ Neurology as directed. We 
started you on KEPPRA, which is a medicine for seizures. Your 
symptoms of confusion began to improve within one day. We 
monitored your brain activity while you were in the hospital and 
found no evidence of further seizures.

MEDICATION CHANGES ON THIS ADMISSION:
Please continue to take your new medication, KEPPRA, as 
instructed. 
Please resume all medications as prior to discharge. 

Thank you for allowing us to participate in your care.

___ Neurology Team
 
Followup Instructions:
___